US04092430
(f) [o-(3-chloro-o-toluidino)-phenyl]-acetic acid
To a solution of 35.5 g of sodium salt of [o-(3-chloro-o-toluidino)-phenyl]-glyoxylic acid in 455 ml of abs. ethanol are added at 50° 28.5 g of hydrazine hydrate, and 5 minutes afterwards 66.2 g of sodium methylate. The solution is thereupon heated in an oil bath with a bath temperature of 150°, whereby the ethanol slowly distills off. To the solution are simultaneously added dropwise 455 ml of ethylene glycol monoethyl ether. The internal temperature thereby increases to 130°. After the dropwise addition is completed, the solution is stirred for a further hour at 150°; it is then cooled and diluted with 3,000 ml of water. The solution is extracted twice with 300 ml of ether each time, and then acidified with concentrated hydrochloric acid. The precipitated yellow oil is extracted with 200 ml of ethyl acetate; the ethyl acetate solution is washed with 200 ml of water, dried over sodium sulphate, and concentrated at 30° under 11 Torr, whereby [ o-(3-chloro-o-toluidino)-phenyl]-acetic acid crystallises out, M.P. 124° - 125°.

reactant | sodium | 35.5 g | [Na] | Na
reactant | [o-(3-chloro-o-toluidino)-phenyl]-glyoxylic acid | ClC1=C(C(=CC=C1)C)NC1=C(C=CC=C1)C(C(=O)O)=O | C15H12ClNO3
reactant | hydrazine hydrate | 28.5 g | O.NN
reactant | sodium methylate | 66.2 g | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [o-(3-chloro-o-toluidino)-phenyl]-acetic acid | ClC1=C(C(=CC=C1)C)NC1=C(C=CC=C1)CC(=O)O | C15H14ClNO2
